US09447090B2
To 2.16 g of ethyl 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate were added 20 ml of THF, 40 ml of ethanol, and 20 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring for 4 days. The solvent was evaporated under reduced pressure, and water and 1 M hydrochloric acid were added thereto. The insoluble material was collected by filtration and dried to obtain 1.99 g of 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid.

reactant | ethyl 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylate | 2.16 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)OCC)C=CC=C1 | C18H17FN2O3
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 8-[(2-fluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 1.99 g | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C=CC=C1 | C16H13FN2O3
